US07411093B2
trans-[2-(6-Oxo-3,6-dihydro-2H-pyridin-1-yl)-cyclohexyl]-carbamic acid tert-butyl ester
Bis(tricyclohexylphosphine)benzylidene ruthenium(IV)dichloride (13 mg, 16 μmol) was added to a solution of trans-[2-(acryloyl-but-3-enyl-amino) -cyclohexyl]-carbamic acid tert-butyl ester (50 mg, 0.16 mmol) and tetraisopropyl orthotitanate (8.8 mg, 31 μmol) in dichloromethane (2.5 ml), and the reaction mixture was stirred for 1 h at room temperature. The solvent was then evaporated and the residue chromatographed (SiO2, heptane-ethyl acetate gradient) to produce the title compound (44 mg, 96%). Off-white solid, MS (ISP) 295.2 (M+H)+.

reactant | trans-[2-(acryloyl-but-3-enyl-amino) -cyclohexyl]-carbamic acid tert-butyl ester | 0.16 mmol, 50 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](CCCC1)N(CCC=C)C(C=C)=O)=O | C18H30N2O3
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
catalyst | Bis(tricyclohexylphosphine)benzylidene ruthenium(IV)dichloride | 16 μmol, 13 mg | C1CCC(CC1)[P+](C2CCCCC2)(C3CCCCC3)C(C4=CC=CC=C4)[P+](C5CCCCC5)(C6CCCCC6)C7CCCCC7.Cl[Ru]Cl
catalyst | tetraisopropyl orthotitanate | 31 μmol, 8.8 mg | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | trans-[2-(6-Oxo-3,6-dihydro-2H-pyridin-1-yl)-cyclohexyl]-carbamic acid tert-butyl ester | 44 mg, 96% | C(C)(C)(C)OC(N[C@H]1[C@@H](CCCC1)N1CCC=CC1=O)=O | C16H26N2O3
